US03971791
Upon heating a solution of 15.6 g of ethylideneacetoacetic acid ethyl ester and 13.0 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 2 hours, 2-amino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 140°C (isopropanol) is obtained. Yield: 59% of theory.

reactant | ethylideneacetoacetic acid ethyl ester | 15.6 g | C(C)OC(CC(=O)C=CC)=O | C8H12O3
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 59% | C(C)OC(=O)C1=C(NC(=C(C1C)C(=O)OCC)C)N | C13H20N2O4
